US07427632B2
4-{(R)-2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-phenyl-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[(R)-2-amino-2-phenylethoxy-methyl]piperidine-1-carboxylic acid tert-butyl ester (3 g, 9.0 mmol) and 3-chloroindole-6-carboxylic acid (1.7 g, 9.0 mmol) afforded the title compound as a crude residue, which was used without further purification.

reactant | 4-[(R)-2-amino-2-phenylethoxy-methyl]piperidine-1-carboxylic acid tert-butyl ester | 9.0 mmol, 3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC[C@@H](C1=CC=CC=C1)N | C19H30N2O3
reactant | 3-chloroindole-6-carboxylic acid | 9.0 mmol, 1.7 g | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-{(R)-2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-phenyl-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC[C@@H](C1=CC=CC=C1)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C28H34ClN3O4
